US08058293B2
To a solution of 4-methyl-5-thiazoleethanol (2 mL, 16.7 mmol) in CH2Cl2 (10 mL) and pyridine (10 mL) was added p-toluenesulfonyl chloride (3.5 g, 18.4 mmol) portionwise over 15 min. This mixture was stirred at ambient temperature for 18 h then was quenched with 5% aqueous HCl (15 mL). The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×10 mL). The combined organics were dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure and purified via column chromatography (SiO2, 50% hexanes/ethyl acetate) to give 2-(4-methylthiazol-5-yl)ethyl 4-methylbenzenesulfonate (3.24 g, 10.9 mmol, 65% yield). MS (DCI/NH3) m/z 298 (M+H)+.

reactant | 4-methyl-5-thiazoleethanol | 16.7 mmol, 2 mL | CC=1N=CSC1CCO | C6H9NOS
reactant | p-toluenesulfonyl chloride | 18.4 mmol, 3.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-methylthiazol-5-yl)ethyl 4-methylbenzenesulfonate | 10.9 mmol, 3.24 g, 65% yield | CC1=CC=C(C=C1)S(=O)(=O)OCCC1=C(N=CS1)C | C13H15NO3S2
